US08309581B2
a) 4-{2-[5-Chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenyl]-ethyl}-benzonitrile
To a solution of 4-[5-chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenylethynyl]-benzonitrile (0.27 g, 0.6 mmol) in methanol was added 10% palladium on carbon and stirred for 16 h at 25° C. under hydrogen balloon pressure. The reaction mixture was filtered through a bed of celite and evaporated under reduced pressure. The residue was purified by column chromatography over silica gel (10-20% ethyl acetate/n-hexane) to yield the compound as an off-white powder (23%). MS (Turbo Spray): m/z=454.4 (M+H).

reactant | 4-[5-chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenylethynyl]-benzonitrile | 0.6 mmol, 0.27 g | ClC=1C=CC(=C(C1)C#CC1=CC=C(C#N)C=C1)C1=NC2=C(N1CC1CCCCC1)C=CC=C2 | C29H24ClN3
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-{2-[5-Chloro-2-(1-cyclohexylmethyl-1H-benzoimidazol-2-yl)-phenyl]-ethyl}-benzonitrile | 23% | ClC=1C=CC(=C(C1)CCC1=CC=C(C#N)C=C1)C1=NC2=C(N1CC1CCCCC1)C=CC=C2 | C29H28ClN3
